* FILE: MMI_OA21B.sp


* SPICE netlist for "MMI_OA21B" (generated by MMI_SUE4.2.16)

.SUBCKT MMI_OA21B in0 in1 in2 out 
M_0 N1 in0 net_1 gnd n W='0.77*1u' L=ln_min  
M_1_1 net_1 in1 gnd gnd n W='0.77*1u' L=ln_min  
M_2_1 net_1 in2 gnd gnd n W='0.77*1u' L=ln_min  
Minverter1._3 out N1 gnd gnd n W='0.77*1u' L=ln_min  
Minverter1._4 out N1 vdd vdd p W='1.54*1u' L=lp_min  
M_5_1 N1 in0 vdd vdd p W='0.77*1u' L=lp_min  
M_6_1 N1 in1 net_2 vdd p W='1.54*1u' L=lp_min  
M_7_1 net_2 in2 vdd vdd p W='1.54*1u' L=lp_min  
.ENDS	$ MMI_OA21B

